US04472407
To a solution of 20 g of 5-bromo-6-fluoroquinaldine in 150 ml of glacial acetic acid was added 2.0 g of platinum on charcoal. The mixture was hydrogenated on a Paar apparatus at a temperature of about 20° C. until the theoretical amount of hydrogen was taken up. The mixture was then filtered through celite to provide a solution of 5-bromo-6-fluoro-1,2,3,4-tetrahydroquinaldine. Evaporation of the solvent provides the desired intermediate. This intermediate could be used directly in Part C below without purification.

reactant | 5-bromo-6-fluoroquinaldine | 20 g | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | platinum on charcoal | 2.0 g | [Pt] | Pt
product | 5-bromo-6-fluoro-1,2,3,4-tetrahydroquinaldine | BrC1=C2CCC(NC2=CC=C1F)C | C10H11BrFN
